US07875636B2
To a solution of 0.11 g (0.32 mmol) 2-[4-(5-methylisoxazol-4-yl)phenyl]-N-[(1R)-1-(5-vinylpyridin-2-yl)ethyl]acetamide in 1.30 ml EtOAc was added 0.010 g of 10% palladium on carbon. The reaction flask was equipped with a hydrogen balloon. After 24 h at room temperature, the reaction mixture was filter through celite, washed three times with methanol, and concentrated in vacuo. Purification by automated flash chromatography (40 g silica gel cartridge 20-100% EtAOc/hex over 15 min) afforded N-[(1R)-1-(5-ethylpyridin-2-yl)ethyl]-2-[4-(5-methylisoxazol-4-yl)phenyl]acetamide 1H NMR (CDCl3, 400 MHz) 8.35 (s, 1H); 8.31 (d, 1H, J=1.56 hz); 7.47 (dd, 1H, J=2.19 Hz, 7.96 Hz); 7.36 (d, 4H, J=2.29 Hz); 7.13 (d, 1H, J=7.88 Hz); 6.97 (br d, 1H J=7.88 Hz); 5.10 (m, 1H); 3.62 (s, 2H); 2.63 (q, 2H, J=7.60 Hz, 15.11 Hz); 2.57 (s, 3H); 1.43 (d, 3H, J=6.69); 1.24 (t, 3H, J=7.60). HRMS (ES) exact mass calcd for C21H23N3O2: 350.1864, Found: 350.1856.

reactant | 2-[4-(5-methylisoxazol-4-yl)phenyl]-N-[(1R)-1-(5-vinylpyridin-2-yl)ethyl]acetamide | 0.32 mmol, 0.11 g | CC1=C(C=NO1)C1=CC=C(C=C1)CC(=O)N[C@H](C)C1=NC=C(C=C1)C=C | C21H21N3O2
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 1.30 ml | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | 0.010 g | [Pd] | Pd
product | N-[(1R)-1-(5-ethylpyridin-2-yl)ethyl]-2-[4-(5-methylisoxazol-4-yl)phenyl]acetamide | C(C)C=1C=CC(=NC1)[C@@H](C)NC(CC1=CC=C(C=C1)C=1C=NOC1C)=O | C21H23N3O2
